US05532248
To a stirred solution of tris(2-methylphenyl)bismuthine (50 mg, 0.104 mmol) in CH2Cl2 (2 mL) was added bis(trifluoroacetoxy)iodobenzene (45 mg, 0.104 mmol). To this stirred solution was added 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (82 mg, 0.104 mmol), Cu(OAc)2 (catalytic), and acetic acid (0.060 mL, 0.104 mmol). The flask was fitted with a reflux condenser and the mixture warmed to 40° C. and stirred overnight. The reaction mixture was cooled and diluted with CH2Cl2. The reaction mixture was quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined and dried over anhydrous Na2SO4. The mixture was filtered and concentrated in vacuo. The products were isolated by preparative TLC on silica gel (eluted with 2:1 hexanes/acetone) to afford 23.8 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(2'"-methylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (Rf =0.46). (1H NMR and mass spectral analysis were consistent with the desired structure).

reactant | tris(2-methylphenyl)bismuthine | 0.104 mmol, 50 mg | CC1=C(C=CC=C1)[Bi](C1=C(C=CC=C1)C)C1=C(C=CC=C1)C
reactant | bis(trifluoroacetoxy)iodobenzene | 0.104 mmol, 45 mg | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.104 mmol, 82 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | acetic acid | 0.104 mmol, 0.060 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(2'"-methylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 23.8 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=C(C=CC=C2)C)OC)C)C)O)=O | C50H75NO12
